**************************************************
* Manufacturer:           Würth Elektronik 
* Kinds:                  Common Mode Power Line Choke Nanocrystalline
* Matchcode:              WE-CMANC 
* Library Type:           LTspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-10-20
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt M_7848030333_33m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=94m
+  ck=1.6833f
+  DC4=11.5220p
+  DL4=1.3971u
+  DR5=3.0000
+  DR6=7.3273k
+  DC3=13.3840p
+  DL3=58.2414n
+  DR3=20.4251
+  DR4=1.9880k
+  L1=26.6225m
+  L2=7.4107m
+  L3=928.6781u
+  L4=2.0277m
+  RS1=8.4917k
+  RS2=9.6165k
+  RS3=8.8497k
+  RS4=9.3580k
+  C1=11.7764p
+  R2=37.8863
+  C2=17.4863p
+  L5=267.1966n
+  RS5=893.7338
.ends M_7848030333_33m
********
.subckt M_7848030417_17m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=52m
+  ck=1.6850f
+  DC4=6.4629p
+  DL4=685.7467n
+  DR5=2.9999
+  DR6=5.3294k
+  DC3=1.9123p
+  DL3=54.9606n
+  DR3=1.4252
+  DR4=1.2805k
+  L1=16.0705m
+  L2=372.1114u
+  L3=905.5081u
+  L4=2.5021m
+  RS1=5.4922k
+  RS2=6.6147k
+  RS3=6.8495k
+  RS4=6.3519k
+  C1=6.1174p
+  R2=37.8863
+  C2=3.3704p
+  L5=251.7849n
+  RS5=2.0934k
.ends M_7848030417_17m
********
.subckt M_7848030509_9m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=32m
+  ck=1.6857f
+  DC4=6.9693p
+  DL4=440.9879n
+  DR5=2.9997
+  DR6=3.3359k
+  DC3=3.6014p
+  DL3=18.2646n
+  DR3=1.4253
+  DR4=749.8924
+  L1=9.8994m
+  L2=224.6421u
+  L3=976.1883u
+  L4=155.6174u
+  RS1=3.5067k
+  RS2=3.6048k
+  RS3=3.8107k
+  RS4=3.3259k
+  C1=7.0379p
+  R2=37.8867
+  C2=3.2936p
+  L5=123.2960n
+  RS5=1.2898k
.ends M_7848030509_9m
********
.subckt M_7848031002_2m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=6.3m
+  ck=0.9459f
+  DC4=1.2602p
+  DL4=70.5587n
+  DR5=2.8212
+  DR6=405.7220
+  DC3=1.8190f
+  DL3=7.6265n
+  DR3=1.4206
+  DR4=165.7361
+  L1=1.4214m
+  L2=941.4588u
+  L3=218.8379u
+  L4=28.6848u
+  RS1=337.8110
+  RS2=646.5605
+  RS3=1.5769k
+  RS4=2.2398k
+  C1=709.7398f
+  R2=664.8019m
+  C2=50.2520n
+  L5=1.3287u
+  RS5=1.5791
.ends M_7848031002_2m
********
.subckt M_7848031501_1m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=3.2m
+  ck=0.9459f
+  DC4=1.5105p
+  DL4=34.1974n
+  DR5=2.8210
+  DR6=242.0107
+  DC3=499.2760f
+  DL3=7.8061n
+  DR3=1.4206
+  DR4=75.7104
+  L1=1.3529m
+  L2=209.1962u
+  L3=38.3444u
+  L4=7.0549u
+  RS1=246.4248
+  RS2=441.0774
+  RS3=648.8415
+  RS4=972.7255
+  C1=609.7398f
+  R2=664.9265m
+  C2=50.0611n
+  L5=1.3970u
+  RS5=1.5771
.ends M_7848031501_1m
********
.subckt L_7848040382_82m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=170m
+  ck=1.6832f
+  DC4=17.7052p
+  DL4=4.1226u
+  DR5=3.0000
+  DR6=9.3273k
+  DC3=20.3826p
+  DL3=6.2414n
+  DR3=2.4251
+  DR4=158.7998
+  L1=66.6337m
+  L2=17.3216m
+  L3=11.8523m
+  L4=928.6937u
+  RS1=19.2907k
+  RS2=19.6168k
+  RS3=19.8508k
+  RS4=19.3579k
+  C1=19.0419p
+  R2=37.8863
+  C2=10.4855p
+  L5=30.1964n
+  RS5=203.7338
.ends L_7848040382_82m
********
.subckt L_7848040435_35m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=80m
+  ck=1.6833f
+  DC4=17.7002p
+  DL4=1.6724u
+  DR5=3.0000
+  DR6=6.3273k
+  DC3=12.1743p
+  DL3=67.7220n
+  DR3=20.4254
+  DR4=4.9880k
+  L1=35.2879m
+  L2=6.5025m
+  L3=3.6677m
+  L4=995.0113u
+  RS1=9.5066k
+  RS2=9.6320k
+  RS3=9.8587k
+  RS4=10.6559k
+  C1=14.7619p
+  R2=37.8857
+  C2=11.3827p
+  L5=491.2367n
+  RS5=1.8934k
.ends L_7848040435_35m
********
.subckt L_7848040515_15m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=40m
+  ck=1.6863f
+  DC4=7.4092p
+  DL4=690.7606n
+  DR5=2.9999
+  DR6=5.3266k
+  DC3=3.8254p
+  DL3=30.8717n
+  DR3=1.4254
+  DR4=1.2691k
+  L1=12.3552m
+  L2=1.3645m
+  L3=320.2206u
+  L4=186.0314u
+  RS1=5.4900k
+  RS2=6.6154k
+  RS3=6.8492k
+  RS4=6.8517k
+  C1=7.3702p
+  R2=37.8861
+  C2=3.3190p
+  L5=235.2825n
+  RS5=2.0924k
.ends L_7848040515_15m
********
.subckt L_7848040707_7m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=22m
+  ck=1.6872f
+  DC4=1.2132p
+  DL4=383.7647n
+  DR5=2.9997
+  DR6=855.8351
+  DC3=1.6045p
+  DL3=11.3956n
+  DR3=1.4253
+  DR4=150.1219
+  L1=7.0887m
+  L2=655.3324u
+  L3=110.5942u
+  L4=143.7756u
+  RS1=3.5057k
+  RS2=3.6045k
+  RS3=4.8110k
+  RS4=5.5262k
+  C1=1.0697p
+  R2=37.8867
+  C2=993.6015f
+  L5=23.3116n
+  RS5=19.8001
.ends L_7848040707_7m
********
.subckt L_7848041104_4m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=8.8m
+  ck=1.6870f
+  DC4=1.2999p
+  DL4=140.6460n
+  DR5=2.9998
+  DR6=603.9820
+  DC3=1.5495p
+  DL3=2.6458n
+  DR3=1.4253
+  DR4=150.2621
+  L1=3.5626m
+  L2=367.4315u
+  L3=98.7637u
+  L4=29.2671u
+  RS1=1.6118k
+  RS2=1.9520k
+  RS3=3.1762k
+  RS4=3.4954k
+  C1=1.0389p
+  R2=37.8810
+  C2=993.4634f
+  L5=21.4618n
+  RS5=19.8494
.ends L_7848041104_4m
********
.subckt L_7848041502_2m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=5m
+  ck=1.6870f
+  DC4=1.0999p
+  DL4=90.6460n
+  DR5=2.9998
+  DR6=663.9820
+  DC3=1.5495p
+  DL3=2.6458n
+  DR3=1.4253
+  DR4=150.2621
+  L1=1.7520m
+  L2=559.6579u
+  L3=159.8103u
+  L4=28.8382u
+  RS1=327.6311
+  RS2=639.0602
+  RS3=1.9147k
+  RS4=2.9195k
+  C1=1.0715p
+  R2=664.9159m
+  C2=50.2520n
+  L5=1.2997u
+  RS5=1.5791
.ends L_7848041502_2m
********
.subckt L_7848041801_1m5 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=3.2m
+  ck=1.6857f
+  DC4=1.5673p
+  DL4=60.8086n
+  DR5=2.9997
+  DR6=381.8511
+  DC3=88.6324f
+  DL3=8.7989n
+  DR3=1.4253
+  DR4=50.2320
+  L1=1.4921m
+  L2=319.3660u
+  L3=55.6329u
+  L4=10.0120u
+  RS1=326.6736
+  RS2=638.8307
+  RS3=1.4858k
+  RS4=1.8114k
+  C1=1.0158p
+  R2=664.9701m
+  C2=50.2542n
+  L5=1.2986u
+  RS5=1.5791
.ends L_7848041801_1m5
********
.subckt L_7848042001_1m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=5m
+  ck=1.6843f
+  DC4=1.5810p
+  DL4=43.9442n
+  DR5=2.9999
+  DR6=295.2780
+  DC3=88.6190f
+  DL3=8.8252n
+  DR3=1.4253
+  DR4=50.2010
+  L1=1.1994m
+  L2=225.4979u
+  L3=52.3592u
+  L4=8.0391u
+  RS1=327.0428
+  RS2=539.4036
+  RS3=1.1948k
+  RS4=1.4342k
+  C1=916.0765f
+  R2=664.9580m
+  C2=50.2461n
+  L5=1.2965u
+  RS5=1.5791
.ends L_7848042001_1m
********
.subckt XL_7848050219_190m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=310m
+  ck=123.6832f
+  DC4=30.7052p
+  DL4=15.1226u
+  DR5=3.0000
+  DR6=10.3273k
+  DC3=50.3826p
+  DL3=9.2414n
+  DR3=2.4251
+  DR4=158.7998
+  L1=66.8303m
+  L2=80.5871m
+  L3=47.1971m
+  L4=18.7280m
+  RS1=9.5702k
+  RS2=22.1362k
+  RS3=30.4679k
+  RS4=30.4319k
+  C1=34.2033p
+  R2=10.2752
+  C2=50.4835p
+  L5=40.1946n
+  RS5=183.7332
.ends XL_7848050219_190m
********
.subckt XL_7848050490_90m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=110m
+  ck=125.8423f
+  DC4=21.0192p
+  DL4=6.5059u
+  DR5=2.9998
+  DR6=10.7295k
+  DC3=30.3859p
+  DL3=9.2420n
+  DR3=2.4251
+  DR4=88.7998
+  L1=47.5597m
+  L2=37.8884m
+  L3=22.3433m
+  L4=8.7308m
+  RS1=7.5703k
+  RS2=16.1380k
+  RS3=20.4684k
+  RS4=20.4320k
+  C1=24.6599p
+  R2=10.2752
+  C2=90.4831p
+  L5=20.1930n
+  RS5=83.7332
.ends XL_7848050490_90m
********
.subckt XL_7848050530_30m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=46m
+  ck=125.8423f
+  DC4=10.7002p
+  DL4=2.0724u
+  DR5=3.0000
+  DR6=6.3273k
+  DC3=14.1743p
+  DL3=57.7220n
+  DR3=20.4254
+  DR4=598.80
+  L1=35.2879m
+  L2=5.5025m
+  L3=1.6677m
+  L4=95.0113u
+  RS1=9.5066k
+  RS2=10.6320k
+  RS3=21.8587k
+  RS4=21.6559k
+  C1=12.7619p
+  R2=37.8857
+  C2=15.3827p
+  L5=321.2367n
+  RS5=693.4
.ends XL_7848050530_30m
********
.subckt XL_7848051012_12m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=15m
+  ck=1.6863f
+  DC4=11.4092p
+  DL4=690.7606n
+  DR5=2.9999
+  DR6=3.5266k
+  DC3=6.8254p
+  DL3=40.8717n
+  DR3=1.4254
+  DR4=969.9691
+  L1=11.3127m
+  L2=1.5128m
+  L3=328.3911u
+  L4=188.0758u
+  RS1=4.1916k
+  RS2=4.1164k
+  RS3=5.7488k
+  RS4=5.7516k
+  C1=11.3690p
+  R2=37.8861
+  C2=7.3191p
+  L5=235.4133n
+  RS5=1.4924k
.ends XL_7848051012_12m
********
.subckt XL_7848051804_4m5 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=4.2m
+  ck=1.6872f
+  DC4=4.7001p
+  DL4=257.0624n
+  DR5=2.9999
+  DR6=2.9265k
+  DC3=5.8260p
+  DL3=11.1545n
+  DR3=1.4254
+  DR4=269.9709
+  L1=5.1040m
+  L2=759.0807u
+  L3=201.4318u
+  L4=59.8189u
+  RS1=1.8192k
+  RS2=1.8144k
+  RS3=2.7505k
+  RS4=3.0498k
+  C1=5.5822p
+  R2=37.8866
+  C2=3.7197p
+  L5=95.4343n
+  RS5=955.0926
.ends XL_7848051804_4m5
********
.subckt XL_7848052303_3m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=3m
+  ck=1.6856f
+  DC4=1.2963p
+  DL4=158.5151n
+  DR5=3.0001
+  DR6=748.1509
+  DC3=1.7859p
+  DL3=4.3298n
+  DR3=10.4249
+  DR4=270.1261
+  L1=3.1092m
+  L2=477.7801u
+  L3=97.7787u
+  L4=25.2378u
+  RS1=1.0091k
+  RS2=1.3394k
+  RS3=2.2708k
+  RS4=2.2999k
+  C1=1.5676p
+  R2=37.8810
+  C2=993.4644f
+  L5=21.4617n
+  RS5=19.8498
.ends XL_7848052303_3m
********
.subckt XL_7848052502_2m5 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=2.2m
+  ck=1.6863f
+  DC4=1.7109p
+  DL4=122.5235n
+  DR5=2.9998
+  DR6=592.9246
+  DC3=1.5496p
+  DL3=2.6380n
+  DR3=1.4253
+  DR4=150.2750
+  L1=2.3251m
+  L2=954.3173u
+  L3=311.5502u
+  L4=47.4278u
+  RS1=527.5142
+  RS2=539.0319
+  RS3=1.8928k
+  RS4=2.8196k
+  C1=1.5697p
+  R2=664.9366m
+  C2=50.2566n
+  L5=1.3021u
+  RS5=1.5791
.ends XL_7848052502_2m5
********
.subckt XL_7848053201_0m9 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=1.1m
+  ck=1.6774f
+  DC4=1.1705p
+  DL4=38.9782n
+  DR5=3.0089
+  DR6=597.9065
+  DC3=1.6194p
+  DL3=1.9744n
+  DR3=1.4256
+  DR4=171.8831
+  L1=843.5757u
+  L2=157.9687u
+  L3=33.8095u
+  L4=6.9603u
+  RS1=325.7352
+  RS2=438.1671
+  RS3=797.5740
+  RS4=849.6799
+  C1=2.1464p
+  R2=664.9790m
+  C2=50.2480n
+  L5=1.2964u
+  RS5=1.5792
.ends XL_7848053201_0m9
********
.subckt XXL_7848060535_35m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=90m
+  ck=125.8423f
+  DC4=30.7002p
+  DL4=6.0724u
+  DR5=3.0000
+  DR6=9.3273k
+  DC3=60.1743p
+  DL3=107.7220n
+  DR3=20.4254
+  DR4=898.80
+  L1=17.2879m
+  L2=8.5025m
+  L3=8.6677m
+  L4=7.6677m
+  RS1=9.5066k
+  RS2=12.6320k
+  RS3=22.8587k
+  RS4=23.6559k
+  C1=34.7619p
+  R2=37.8857
+  C2=60.3827p
+  L5=821.2367n
+  RS5=693.4
.ends XXL_7848060535_35m
********
.subckt XXL_7848060620_20m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=45m
+  ck=125.8423f
+  DC4=20.7002p
+  DL4=2.7724u
+  DR5=3.0000
+  DR6=5.8273k
+  DC3=11.1743p
+  DL3=197.7220n
+  DR3=20.4254
+  DR4=1.9273k
+  L1=9.4672m
+  L2=6.9929m
+  L3=1.5350m
+  L4=1.7120m
+  RS1=10.7779k
+  RS2=10.5270k
+  RS3=15.5270k
+  RS4=15.1376k
+  C1=20.8616p
+  R2=0.6086
+  C2=10.3190p
+  L5=1.5352u
+  RS5=2.5924k
.ends XXL_7848060620_20m
********
.subckt XXL_7848060814_14m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=27m
+  ck=126.1088f
+  DC4=15.7155p
+  DL4=1.9649u
+  DR5=2.9999
+  DR6=4.8294k
+  DC3=7.1744p
+  DL3=158.8953n
+  DR3=20.4254
+  DR4=1.7273k
+  L1=9.5449m
+  L2=3.6854m
+  L3=561.3912u
+  L4=561.5040u
+  RS1=11.1213k
+  RS2=12.2804k
+  RS3=17.5101k
+  RS4=17.1204k
+  C1=16.2373p
+  R2=608.5806m
+  C2=7.9190p
+  L5=1.2125u
+  RS5=2.5924k
.ends XXL_7848060814_14m
********
.subckt XXL_7848061309_9m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=15m
+  ck=126.1723f
+  DC4=15.5877p
+  DL4=1.2891u
+  DR5=2.9997
+  DR6=4.3359k
+  DC3=6.6014p
+  DL3=108.2671n
+  DR3=1.4253
+  DR4=1.0232k
+  L1=5.9891m
+  L2=2.4587m
+  L3=1.0812m
+  L4=561.3912u
+  RS1=4.7200k
+  RS2=4.7536k
+  RS3=9.3924k
+  RS4=9.5232k
+  C1=17.0235p
+  R2=1.0435
+  C2=6.2936p
+  L5=723.2960n
+  RS5=1.7898k
.ends XXL_7848061309_9m
********
.subckt XXL_7848061507_7m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=9.5m
+  ck=125.8699f
+  DC4=13.1318p
+  DL4=765.5898n
+  DR5=10.5465
+  DR6=4.1385k
+  DC3=5.0669p
+  DL3=60.8447n
+  DR3=1.7055
+  DR4=900.0381
+  L1=4.6367m
+  L2=1.1373m
+  L3=459.0081u
+  L4=322.0456u
+  RS1=4.7173k
+  RS2=4.7514k
+  RS3=8.1344k
+  RS4=8.1410k
+  C1=12.8716p
+  R2=507.1007m
+  C2=6.2936p
+  L5=423.3726n
+  RS5=1.7898k
.ends XXL_7848061507_7m
********
.subckt XXL_7848062105_5m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=6.5m
+  ck=125.8699f
+  DC4=11.1318p
+  DL4=575.5898n
+  DR5=10.5465
+  DR6=4.1385k
+  DC3=3.4669p
+  DL3=45.8447n
+  DR3=1.7055
+  DR4=750.0381s
+  L1=3.6367m
+  L2=659.0081u
+  L3=159.0081u
+  L4=122.0456u
+  RS1=4.7173k
+  RS2=6.7514k
+  RS3=9.1344k
+  RS4=9.1410k
+  C1=11.8716p
+  R2=507.1007m
+  C2=5.2936p
+  L5=323.3726n
+  RS5=1.4898k
.ends XXL_7848062105_5m
********
.subckt XXL_7848062603_3m 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=4.5m
+  ck=146.3618f
+  DC4=8.2622p
+  DL4=466.0536n
+  DR5=10.5506
+  DR6=3.5362k
+  DC3=4.4678p
+  DL3=29.9617n
+  DR3=1.7055
+  DR4=550.0395
+  L1=3.2296m
+  L2=446.3241u
+  L3=60.4474u
+  L4=23.3528u
+  RS1=4.3131k
+  RS2=7.0545k
+  RS3=9.2343k
+  RS4=9.2410k
+  C1=9.8315p
+  R2=507.0868m
+  C2=5.2935p
+  L5=324.4568n
+  RS5=1.4898k
.ends XXL_7848062603_3m
********
.subckt XXL_7848063801_1m5 1 2 3 4
X1  1  2  3  4  CMANC  PARAMS:
+  Rdc=2.3m
+  ck=146.7638f
+  DC4=12.4257p
+  DL4=154.3368n
+  DR5=10.5532
+  DR6=1.9354k
+  DC3=10.4684p
+  DL3=5.9619n
+  DR3=1.7055
+  DR4=150.0397
+  L1=1.3452m
+  L2=211.0872u
+  L3=17.1274u
+  L4=9.0464u
+  RS1=1.8163k
+  RS2=3.8492k
+  RS3=6.2343k
+  RS4=6.2410k
+  C1=12.7367p
+  R2=507.0925m
+  C2=6.2935p
+  L5=64.7587n
+  RS5=348.9887
.ends XXL_7848063801_1m5
********
.subckt CMANC  1  2  3  4  PARAMS:
L5 N009 N008 {L3}
C3 N007 N006 {C1}
L1 4 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 3 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N006 {L4}
L9 N006 N005 {L5}
L10 N013 N021 {L5}
R1 N001 1 {Rdc}
R2 N003 N001 {dR4}
C1 N002 N001 {dC3}
L17 N011 N001 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N003 N002 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N003 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 2 {Rdc}
R8 N005 N003 {dR6}
C10 N004 N003 {dC4}
L13 N012 N003 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N005 N004 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N005 N012 {dL4}
L16 N020 N021 {dL4}
R7 N006 N005 {Rs5}
C5 N006 N005 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N006 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 4 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 3 N016 {Rs1}
R21 4 N007 {R2}
R22 3 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7_1  L17  L18  0.9999
K7_2  L17  L19  0.9999
K7_3  L17  L20  0.9999
K7_4  L18  L19  0.9999
K7_5  L18  L20  0.9999
K7_6  L19  L20  0.9999
K6_1  L13  L14  0.9999
K6_2  L13  L15  0.9999
K6_3  L13  L16  0.9999
K6_4  L14  L15  0.9999
K6_5  L14  L16  0.9999
K6_6  L15  L16  0.9999
.ends  CMANC
********